US04359420
670 mg (2.3 mmol) of ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate and 497 mg (1.23 mmol) of 2,4-bis(p-methoxyphenyl)-1,3,2,4-dithiadiphosphetane-2,4-disulphide are heated to boiling under reflux for 2.5 hours in 5 ml of absolute toluene. The mixture is chromatographed on silica gel with ethyl acetate and there is obtained ethyl 5,6-dihydro-5-methyl-6-thioxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate of melting point 164°-165° C.

reactant | ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 2.3 mmol, 670 mg | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)OCC | C15H15N3O3
reactant | 2,4-bis(p-methoxyphenyl)-1,3,2,4-dithiadiphosphetane-2,4-disulphide | 1.23 mmol, 497 mg | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 5,6-dihydro-5-methyl-6-thioxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | CN1CC=2N(C3=C(C1=S)C=CC=C3)C=NC2C(=O)OCC | C15H15N3O2S
